US05109013
2-Chlorobenzimidazole hydrochloride
A mixture of 2-hydroxybenzimidazole (200 g) and phosphorus oxychloride (1100 ml) was heated at reflux temperature for 1 hr and HCl gas was bubbled into the mixture for 3.5 hr. The excess phosphorus oxychloride was removed on a rotary evaporator. The residual oil was poured into ice water (2 L) and a solid impurity was removed by filtration. The filtrate was basified to pH 8 with concentrated ammonium hydroxide. The solid product was collected and dried at 60° C. in vacuo for 18 hrs. The product was recrystallized from acetone to obtain 70 g of the title compound.

reactant | 2-hydroxybenzimidazole | 200 g | OC=1NC2=C(N1)C=CC=C2 | C7H6N2O
reactant | phosphorus oxychloride | 1100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chlorobenzimidazole hydrochloride | 70 g | Cl.ClC=1NC2=C(N1)C=CC=C2 | InChI=1S/C7H5ClN2.ClH/c8-7-9-5-3-1-2-4-6(5)10-7;/h1-4H,(H,9,10);1H
